US06800629B2
In 70 mL of methanol was dissolved 3.5 g of methyl 6-amino-3-methoxy-2-pyrazinecarboxylate. After introducing gaseous ammonia into the solution to prepare a saturated solution, and the solution was stirred at room temperature for 14 hours. By removing the solvent from the reaction mixture under reduced pressure, 3.1 g of 6-amino-3-methoxy-2-pyrazinecarboxamide was obtained as a solid product.

reactant | methyl 6-amino-3-methoxy-2-pyrazinecarboxylate | 3.5 g | NC1=CN=C(C(=N1)C(=O)OC)OC | C7H9N3O3
reactant | ammonia | N | H3N
solvent | methanol | 70 mL | CO | CH4O
product | 6-amino-3-methoxy-2-pyrazinecarboxamide | 3.1 g | NC1=CN=C(C(=N1)C(=O)N)OC | C6H8N4O2
